US07691892B2
a) 2-(3-{[tert-butyl(dimethyl)silyl]oxy}-1-methylpropyl)-5-(3-chlorophenyl)-2H-tetrazole
To triphenylphosphine (2.6 g, 10 mmol) in THF (50 mL) at 0° C. under argon, DEAD (1.6 mL, 10 mmol) added during 5 minutes. After stirring for 40 minutes at 0° C. 5-(3-chlorophenyl)-2H-tetrazole (0.90 g, 5 mmol) followed by a solution of 4-{[tert-butyl(dimethyl)silyl]oxy}butan-2-ol (1.53 g, 7.5 mmol) (Tett. 2003, 59, 4739-4748) in THF (5 mL) was added. Stirring at 0° C. for 10 minutes was followed by 21 h at r.t. The mixture was concentrated and purified by flash column chromatography (SiO2, Heptane-EtOAc 7:1) to give 1.8 g (98%) of the title compound.

reactant | triphenylphosphine | 10 mmol, 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 10 mmol, 1.6 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 5-(3-chlorophenyl)-2H-tetrazole | 5 mmol, 0.90 g | ClC=1C=C(C=CC1)C=1N=NNN1 | C7H5ClN4
reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}butan-2-ol | 7.5 mmol, 1.53 g | [Si](C)(C)(C(C)(C)C)OCCC(C)O | C10H24O2Si
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(3-{[tert-butyl(dimethyl)silyl]oxy}-1-methylpropyl)-5-(3-chlorophenyl)-2H-tetrazole | 1.8 g, 98% | [Si](C)(C)(C(C)(C)C)OCCC(C)N1N=C(N=N1)C1=CC(=CC=C1)Cl | C17H27ClN4OSi
